US05236913
A solution of 3.5 g of 11-methylene-oestr-4,15-diene-3,17-dione-3-ethylenedithioacetal in 52.5 ml of dry tetrahydrofuran was added, at -15° C. to -20° C., with stirring, to a tetrahydrofuran solution of potassium acetalide, prepared from 8.4 g of potassium tert.-butylate in acetylene. The reaction mixture was stirred for a further hour at this temperature, with continuous passage of acetylene. Thereafter, a mixture of 10 ml of water and 10 ml of tetrahydrofuran was added dropwise to the reaction mixture at -15° C. to -20° C. The reaction mixture was then poured out into a mixture of 1 liter of saturated NaCl solution and 0.5 liter of water. The precipitate was filtered off, washed neutral with water and dried in vacuo. After purification by chromatography over silica gel and crystallisation from diethyl ether/hexane, 2.6 g of 11-methylene-17α-ethinyl-17β-hydroxy-oestra-4,15-diene-3-one-3-ethylenedithioacetal were obtained, melting point 170.5° C.; [α] D20 =-21 (chloroform, c=1%).

reactant | 11-methylene-oestr-4,15-diene-3,17-dione-3-ethylenedithioacetal | 3.5 g | C1CSC2(C=C3CC[C@H]4[C@@H]5C=CC([C@@]5(C)CC([C@@H]4[C@H]3CC2)=C)=O)S1 | C21H26OS2
reactant | potassium | [K] | K
reactant | water | 10 ml | O | H2O
reactant | NaCl | 1 liter | [Na+].[Cl-]
reactant | water | 0.5 liter | O | H2O
reactant | tetrahydrofuran | 52.5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetylene | C#C | C2H2
product | 11-methylene-17α-ethinyl-17β-hydroxy-oestra-4,15-diene-3-one-3-ethylenedithioacetal | 2.6 g | C1CSC2(C=C3CC[C@H]4[C@@H]5C=C[C@@]([C@@]5(C)CC([C@@H]4[C@H]3CC2)=C)(O)C#C)S1 | C23H28OS2
